US08802659B2
A mixture of spiro[5.5]undecan-3-ol (0.999 g, 0.00593 mol), 6-hydroxy-naphthalene-2-carboxylic acid methyl ester (1.00 g, 0.00494 mol) and triphenylphosphine (1.56 g, 0.00593 mol) in toluene (10 mL, 0.1 mol) was heated to reflux. Diisopropyl azodicarboxylate (1.17 mL, 0.00593 mol) was then added dropwise and the resulting mixture was refluxed for 6 hours. The mixture was then diluted with dichloromethane and subjected to chromatographic purification with ethyl acetate:hexane (0:100 to 40:60) to give methyl 6-(spiro[5.5]undecan-3-yloxy)-2-naphthoate as a white solid. (1.09 g, 62%). 1H NMR (400 MHz, CDCl3) δ 8.52 (s, 1H), 8.01 (dd, J=8.7, 1.7 Hz, 1H), 7.84 (d, J=9.6 Hz, 1H), 7.72 (d, J=8.7 Hz, 1H), 7.17 (m, 2H), 4.45 (m, 1H), 3.97 (s, 3H), 1.93-1.28 (m, 18H).

reactant | spiro[5.5]undecan-3-ol | 0.00593 mol, 0.999 g | C1CC(CCC12CCCCC2)O | C11H20O
reactant | 6-hydroxy-naphthalene-2-carboxylic acid methyl ester | 0.00494 mol, 1.00 g | COC(=O)C1=CC2=CC=C(C=C2C=C1)O | C12H10O3
reactant | triphenylphosphine | 0.00593 mol, 1.56 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | 0.1 mol, 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | Diisopropyl azodicarboxylate | 0.00593 mol, 1.17 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 6-(spiro[5.5]undecan-3-yloxy)-2-naphthoate | C1CC(CCC12CCCCC2)OC=2C=C1C=CC(=CC1=CC2)C(=O)OC | C23H28O3
